US07375087B2
4-{[4-Benzyloxy-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole
The title compound was prepared in a similar manner to that described in Reference Example 12 using 4-{[4-benzyloxy-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one and 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide instead of 4-{[4-(2-benzyloxycarbonyl-2-methylpropoxy)phenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one and acetobromo-α-D-glucose, respectively.

reactant | 4-{[4-benzyloxy-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC=1C(NNC1C(C)C)=O)OC1CCOCC1 | C25H30N2O4
reactant | 2,3,4,6-tetra-O-pivaloyl-α-D-glucopyranosyl bromide | C(C(C)(C)C)(=O)O[C@H]1[C@H](O[C@@H]([C@H]([C@@H]1OC(C(C)(C)C)=O)OC(C(C)(C)C)=O)COC(C(C)(C)C)=O)Br | C26H43BrO9
reactant | acetobromo-α-D-glucose | CC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)Br)OC(=O)C)OC(=O)C)OC(=O)C | C14H19BrO9
product | 4-{[4-Benzyloxy-2-(tetrahydro-4H-pyran-4-yloxy)phenyl]methyl}-5-isopropyl-3-(2,3,4,6-tetra-O-pivaloyl-β-D-glucopyranosyloxy)-1H-pyrazole | C(C1=CC=CC=C1)OC1=CC(=C(C=C1)CC=1C(=NNC1C(C)C)O[C@H]1[C@H](OC(C(C)(C)C)=O)[C@@H](OC(C(C)(C)C)=O)[C@H](OC(C(C)(C)C)=O)[C@H](O1)COC(C(C)(C)C)=O)OC1CCOCC1 | C51H72N2O13
